US04154835
5-Trichlorovinyl pyridine-2-carboxylic acid chloride
The above reaction is repeated on 12.3 g. of 5-trichlorovinyl pyridine-2-carboxylic acid and 145 ml. of thionyl chloride affording a tan solid with a m.p. 89°-90° C. The crude 5-trichlorovinyl pyridine-2-carboxylic acid chloride are used without further purification in subsequent steps.

reactant | 5-trichlorovinyl pyridine-2-carboxylic acid | ClC(=C(Cl)Cl)C=1C=CC(=NC1)C(=O)O | C8H4Cl3NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 5-Trichlorovinyl pyridine-2-carboxylic acid chloride | ClC(=C(Cl)Cl)C=1C=CC(=NC1)C(=O)Cl | C8H3Cl4NO
